US05679696
A suspension of 3-(2-fluorocyclopentyloxy)-4-methoxybenzoic acid (0.48 g) in toluene (20 mL) is treated with thionyl chloride (0.34 g) and then is heated at 60° C. for 3 hours, and cooled and evaporated to give 3-(2-fluorocyclopentyl-oxy)-4-methoxybenzoyl chloride.

reactant | 3-(2-fluorocyclopentyloxy)-4-methoxybenzoic acid | 0.48 g | FC1C(CCC1)OC=1C=C(C(=O)O)C=CC1OC | C13H15FO4
reactant | thionyl chloride | 0.34 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-fluorocyclopentyl-oxy)-4-methoxybenzoyl chloride | FC1C(CCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H14ClFO3
